US07482341B2
Step B]: N-(5-Hydroxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide
This material was prepared in analogy to example 107 step B] from N-(5-formyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (5.9 g) and sodium borohydride (1.037 g) as a light yellow solid (1.41 g). MS (ESI): 223.2 (MH+).

reactant | N-(5-formyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 5.9 g | C(=O)C=1C=CC(=NC1C)NC(C(C)(C)C)=O | C12H16N2O2
reactant | sodium borohydride | 1.037 g | [BH4-].[Na+]
product | N-(5-Hydroxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | OCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C12H18N2O2
